US07112585B2
A mixture of 5-(4-methoxy-benzenesulfonyl)-2-methyl-pyrimidin-4-ol (200 mg, 0.714 mmol) in phosphorus oxychloride (4 mL) was refluxed under N2 for 2 h and then cooled to room temperature. Solvents were removed in vacuo, and the residue was poured into ice water with stirring. The mixture was neutralized with saturated sodium bicarbonate to pH˜7 and extracted with methylene chloride (3×). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (1:1 ethyl acetate/hexanes) to provide 4-chloro-5-(4-methoxy-benzenesulfonyl)-2-methyl-pyrimidine (177 mg, 83%) as a light yellow solid: 1H NMR (300 MHz, CDCl3) δ 9.32 (s, 1H), 7.93 (d, J=7.2 Hz, 2H), 7.01 (d, J=7.2 Hz, 2H), 3.89 (s, 3H), 2.77 (s, 3H); ESI MS m/z 299 [(M+H)+, calcd for C12H12ClN2O3S, 299.0].

reactant | 5-(4-methoxy-benzenesulfonyl)-2-methyl-pyrimidin-4-ol | 0.714 mmol, 200 mg | COC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)O | C12H12N2O4S
reactant | phosphorus oxychloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-(4-methoxy-benzenesulfonyl)-2-methyl-pyrimidine | 177 mg, 83% | ClC1=NC(=NC=C1S(=O)(=O)C1=CC=C(C=C1)OC)C | C12H11ClN2O3S
